US04797496
A mixture of 0.7 g 2-phenylimidazolidine-4-one and 1 g 2-methylpropyl 3,4-epoxybutanoate are heated for 12 h at 70° (external temperature) in 2 ml water and 2 ml acetone. After evaporating, the residue is taken up with ether and the white solid obtained is filtered, and recrystallised from ethyl/acetate, 2-Methylpropyl-2-phenyl-4-oxoimidazolidine-β-hydroxybutanoate is obtained as a white powder, m.p. 126°-128° C.

reactant | 2-phenylimidazolidine-4-one | 0.7 g | C1(=CC=CC=C1)C1NCC(N1)=O | C9H10N2O
reactant | 2-methylpropyl 3,4-epoxybutanoate | 1 g | O1C(CC(=O)OCC(C)C)C1 | C8H14O3
solvent | water | 2 ml | O | H2O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 2-Methylpropyl-2-phenyl-4-oxoimidazolidine β-hydroxybutanoate | CC(CN1C(NC(C1)=O)C1=CC=CC=C1)C.OC(CC(=O)[O-])C | InChI=1S/C13H18N2O.C4H8O3/c1-10(2)8-15-9-12(16)14-13(15)11-6-4-3-5-7-11;1-3(5)2-4(6)7/h3-7,10,13H,8-9H2,1-2H3,(H,14,16);3,5H,2H2,1H3,(H,6,7)/p-1
